US07560586B2
(R)-2-(3-{3-[[6-Methyl-pyridin-2-ylmethyl](2,2-diphenylethyl)amino]-2-methyl-propoxy}-phenyl)acetic acid hydrochloride salt
Following the procedure of Example 7(d) except (R)-2-(3-{3-[(2,2-diphenylethyl)amino]2-methyl-propoxy}-phenyl)acetic acid and 6-methyl-2-pyridinecarboxaldehyde were used instead of (R)-2-(3-{3-(2,2-diphenylethyl)amino]-3-methyl-propoxy}phenyl)acetic acid methyl ester and 2-chloro-3-trifluoromethylbenzaldehyde in step (d) the corresponding carboxylic acid was obtained. The resulting amine/carboxylic acid was dissolved in Et2O (diethylether) and acidified with 1.0 M HCl/Et2O. The reaction mixture was concentrated in vacuo and dried under reduced pressure to give the title compound as a white solid, 89 mg (95%). MS (ESI) 509.4 (M+H+).

reactant | (R)-2-(3-{3-[(2,2-diphenylethyl)amino]2-methyl-propoxy}-phenyl)acetic acid | C1(=CC=CC=C1)C(CNC[C@H](COC=1C=C(C=CC1)CC(=O)O)C)C1=CC=CC=C1 | C26H29NO3
reactant | 6-methyl-2-pyridinecarboxaldehyde | CC1=CC=CC(=N1)C=O | C7H7NO
reactant | acetic acid methyl ester | COC(C)=O | C3H6O2
reactant | 2-chloro-3-trifluoromethylbenzaldehyde | ClC1=C(C=O)C=CC=C1C(F)(F)F | C8H4ClF3O
reactant | HCl Et2O | 1.0 M | Cl.CCOCC
solvent | Et2O | CCOCC | C4H10O
product | (R)-2-(3-{3-[[6-Methyl-pyridin-2-ylmethyl](2,2-diphenylethyl)amino]-2-methyl-propoxy}-phenyl)acetic acid hydrochloride salt | Cl.CC1=CC=CC(=N1)CN(C[C@H](COC=1C=C(C=CC1)CC(=O)O)C)CC(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C33H36N2O3.ClH/c1-25(24-38-31-18-10-12-27(19-31)20-33(36)37)21-35(22-30-17-9-11-26(2)34-30)23-32(28-13-5-3-6-14-28)29-15-7-4-8-16-29;/h3-19,25,32H,20-24H2,1-2H3,(H,36,37);1H/t25-;/m1./s1
